US04345084
2[(Methylsulfonyl)oxy]-5-hexynenitrile
A mixture of 2-hydroxy-5-hexynenitrile (8.0 g, 73.3 mmol) and dry triethylamine (10.1 g, 0.1 mol) in 50 ml of dry CH2Cl2 was treated with a solution of methanesulfonyl chloride (10.3 g, 90 mmol) in 50 ml of CH2Cl2, at 0° C. for 11/2 h. The reaction mixture was diluted with CH2Cl2, washed twice with cold 1.0 N H2SO4, twice with water, and dried over MgSO4. The filtered CH2Cl2 solution was concentrated at 40° C./30 mm to give 12 g of pale yellow liquid. Purification of this material on 220 g of silica gel and eluted with ether-petroleum ether (1:1 parts by volume) gave 8.7 g (56% by weight yield from pentynal) of 2-[(methylsulfonyl)]-5-hexynenitrile as a colorless liquid.

reactant | 2-hydroxy-5-hexynenitrile | 73.3 mmol, 8.0 g | OC(C#N)CCC#C | C6H7NO
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 90 mmol, 10.3 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 2[(Methylsulfonyl)oxy]-5-hexynenitrile | 12 g | CS(=O)(=O)OC(C#N)CCC#C | C7H9NO3S
